US07053107B2
N-(3-Cyclopropyl-prop-2-ynyl)-2-{3-[(E)-2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-nicotinamide
Prepared-in a similar manner to that described for Example 6 above, except using 2-{3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-nicotinic acid p-toluene sulfonate and 3-Cyclopropyl-prop-2-ynylamine. 1H NMR (DMSO-d6): δ 13.01 (1H, s), 11.20 (1H, s), 9.19 (1H, bt), 8.51 (1H, s), 8.40 (1H, d, J=4.9 Hz), 8.15 (1H, d, J=7.5 Hz), 8.05 (1H, d, J=8.7 Hz), 7.83 (1H, d, J=16.4 Hz), 7.42 (1H, d, J=16.4 Hz), 7.31 (1H, s), 7.05 (1H, d, J=8.3 Hz), 6.96 (1H, s), 6.92 (1H, dd, J=7.5, 4.9 Hz), 4.06 (2H, d, J=4.14 Hz), 2.46 (3H, s), 2.29 (3H, s), 1.33–1.28 (1H, m), 0.77–0.72 (2H, m), 0.60–0.55 (2H, m).

reactant | 2-{3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-nicotinic acid p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.CC1=CC(=NC(=C1)C)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=N1
reactant | 3-Cyclopropyl-prop-2-ynylamine | C1(CC1)C#CCN | C6H9N
product | N-(3-Cyclopropyl-prop-2-ynyl)-2-{3-[(E)-2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-nicotinamide | C1(CC1)C#CCNC(C1=C(N=CC=C1)NC1=CC=C2C(=NNC2=C1)\C=C\C1=NC(=CC(=C1)C)C)=O | C28H26N6O
